US08492378B2
1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid
A mixture of 1-acetyl-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile (1.80 g, 11.10 mmol), 2 M aqueous sodium hydroxide solution (25 mL) and ethanol (25 mL) was stirred at 90° C. for 16 hr. The reaction mixture was neutralized with hydrochloric acid and diluted with water. The precipitate was collected by filtration, and washed with water and diethyl ether to give the title compound (1.51 g, yield 84%) as pale-yellow crystals.

reactant | 1-acetyl-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile | 11.10 mmol, 1.80 g | C(C)(=O)N1C=CC2=C1N=CC=C2C#N | C10H7N3O
reactant | sodium hydroxide | 2 M, 25 mL | [OH-].[Na+]
reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid | 1.51 g, yield 84% | N1C=CC2=C1N=CC=C2C(=O)O | C8H6N2O2
